US08232395B2
28 g (114 mmol) of 2-borono-5-ethoxycarbonylindole, 12 g (113 mmol) of sodium carbonate and 17.2 g of 2,4-(113 mmol) dichloropyrimidine were initially charged in 412 ml of ethanol. The clear solution was freed of oxygen by vigorous stirring and passing argon through (20 minutes). At RT, 2.67 g of tetrakis(triphenylphosphine)palladium(0) were added. The mixture was heated to from 65° C. to 70° C. for 2 hours (h). Subsequently, 112 ml of water and 112 ml of 30% hydrochloric acid were added and the mixture was cooled to 0° C. After filtration and drying under reduced pressure, 37.3 g (93% of theory) of ethyl 2-(2-chloropyrimidin-4-yl)-1H-indole-5-carboxylate were obtained (HPLC>96%).

reactant | 2-borono-5-ethoxycarbonylindole | 114 mmol, 28 g | B(O)(O)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C11H12BNO4
reactant | sodium carbonate | 113 mmol, 12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloropyrimidine | 113 mmol, 17.2 g | ClC1=CC(=NC=N1)Cl | C4H2Cl2N2
reactant | oxygen | O=O | O2
reactant | hydrochloric acid | 112 ml | Cl | ClH
solvent | ethanol | 412 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.67 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 112 ml | O | H2O
product | ethyl 2-(2-chloropyrimidin-4-yl)-1H-indole-5-carboxylate | 37.3 g, 93% | ClC1=NC=CC(=N1)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C15H12ClN3O2
